US07642361B2
4-Cyano-5-methylsulfanyl-3-(4-morpholin-4-yl-phenyl)-thiophene-2-carboxylic acid ethyl ester
Combine 3-(4-Iodophenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester (50 mg, 0.12 mmol), morpholine (20 μl, 0.23 mmol), Pd2(dba)3 (3.5 mg, 0.006 mmol), cessium carbonate (53 mg, 0.16 mmol) and (+)-BINAP (5.4 mg, 0.009 mmol) in anhydrous toluene (1 ml) and stir at 100° C. for 12 hours. Cool the reaction mixture to room temperature, filtered through celite and washed with ethyl acetate. Evaporate the solvent and purify the residue by column chromatography (silica gel) eluting with ethyl acetate:hexane 1:3 to provide the title compound (22 mg, 49%): 1H NMR (CDCl3, 200 MHz): δ 7.37 (d, 2H, J=8.9); 6.99 (d, 2H, J=8.9); 4.22 (q, 2H, J=7.2); 3.89 (m, 4H); 3.28 (m, 4H); 2.71 (s, 3H); 1.24 (t, 3H, J=7.2).

reactant | 3-(4-Iodophenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 0.12 mmol, 50 mg | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)SC | C15H12INO2S2
reactant | morpholine | 0.23 mmol, 20 μl | N1CCOCC1 | C4H9NO
reactant | carbonate | 0.16 mmol, 53 mg | C([O-])([O-])=O
reactant | (+)-BINAP | 0.009 mmol, 5.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.006 mmol, 3.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Cyano-5-methylsulfanyl-3-(4-morpholin-4-yl-phenyl)-thiophene-2-carboxylic acid ethyl ester | 22 mg, 49% | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)N1CCOCC1)C#N)SC | C19H20N2O3S2
